US07615569B2
To a solution of 4-cyano-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide (4.5 mmol) in THF (50 mL) at −78° C. under argon was added DIBAL (5.0 mmol, 1M in THF) and the solution was allowed to warm to room temperature overnight. After the reaction was quenched with potassium sodium tartrate solution slowly, the mixture was extracted with ethyl acetate, and the organic phase was washed with brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by column chromatography to give 4-formyl-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide (3.1 mmol).

reactant | 4-cyano-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide | 4.5 mmol | C(#N)C1=CC=C(C=C1)S(=O)(=O)N(C=1SC=CN1)COC | C12H11N3O3S2
reactant | DIBAL | 5.0 mmol, 1M | CC(C)C[AlH]CC(C)C
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-formyl-N-methoxymethyl-N-thiazol-2-yl-benzenesulfonamide | 3.1 mmol | C(=O)C1=CC=C(C=C1)S(=O)(=O)N(C=1SC=CN1)COC | C12H12N2O4S2
